US08461328B2
A suspension of 1,4-dioxa-9-aza-dispiro[4.2.4.2]tetradecan-10-one (prepared according to J. Org. Chem. 2004, 69, 2755) (500 mg, 2.4 mmol) in THF (7 mL) was treated with 1M aqueous HCl (7 mL) and the resulting mixture stirred at ambient temperature for 20 hours. The reaction mixture was quenched with 1M aqueous NaOH (7 mL) and the mixture concentrated under vacuum. The resulting solid was purified by column chromatography on silica gel (gradient: DCM then 2 to 10% methanol in ethyl acetate) to afford 398 mg (quant.) of 1-aza-spiro[4.5]decane-2,8-dione. LCMS (Method B, ESI): RT=1.63 min, 168; 1H NMR (400 MHz, CDCl3) δ: 3.95 (s, 1H), 3.77-3.71 (m, 1H), 2.46-2.44 (m, 3H), 2.05-2.03 (m, 3H), 1.81-1.65 (m, 4H).

reactant | 1,4-dioxa-9-aza-dispiro[4.2.4.2]tetradecan-10-one | 2.4 mmol, 500 mg | O1CCOC12CCC1(NC(CC1)=O)CC2 | C11H17NO3
reactant | HCl | 1M, 7 mL | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 1-aza-spiro[4.5]decane-2,8-dione | 398 mg | N1C(CCC12CCC(CC2)=O)=O | C9H13NO2
